US07488831B2
Synthesis of 4-[(5-hydroxy-1-phenyl-3-trifluoromethylpyrazol-4-yl)-methylsulfonyl]benzene
5-Hydroxy-1-phenyl-3-trifluoromethylpyrazole (2.3 g (10 mmol)) synthesized in Reference Example 2 and 0.6 g (15 mmol) of sodium hydroxide were dissolved in 10 mL of water. While stirring the resulting solution at room temperature, 1.7 g (20 mmol) of a 35% formalin solution was added dropwise thereto, followed by stirring at the same temperature for 1 hour. Subsequently, 1.6 g (10 mmol) of sodium benzenesulfinate was charged thereto at room temperature, and the obtained mixture was stirred for 2 hours. After the reaction, 6.0 g (60 mmol) of 35% hydrochloric acid was added dropwise thereto, and the toluene layer obtained from an extraction operation performed twice with 20 mL of toluene was washed with 10 mL of water and then with 10 mL of saturated brine and dried over anhydrous sodium sulfate. Thereafter, toluene was removed by distillation under reduced pressure to obtain 3.4 g (yield: 88.1%) of the title compound as a viscous material. This viscous material was left standing at room temperature for 2 days and thereby crystallized.

reactant | 5-Hydroxy-1-phenyl-3-trifluoromethylpyrazole | 10 mmol, 2.3 g | OC1=CC(=NN1C1=CC=CC=C1)C(F)(F)F | C10H7F3N2O
reactant | sodium hydroxide | 15 mmol, 0.6 g | [OH-].[Na+]
reactant | formalin | C=O | CH2O
reactant | sodium benzenesulfinate | 10 mmol, 1.6 g | C1(=CC=CC=C1)S(=O)[O-].[Na+]
reactant | hydrochloric acid | 60 mmol, 6.0 g | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[(5-hydroxy-1-phenyl-3-trifluoromethylpyrazol-4-yl)-methylsulfonyl]benzene | 3.4 g, yield: 88.1% | OC1=C(C(=NN1C1=CC=CC=C1)C(F)(F)F)CS(=O)(=O)C1=CC=CC=C1 | C17H13F3N2O3S
